US08835644B2
2-Fluoro-N-(5-nitrothiazol-2-yl)nicotinamide (VPC16a1052)
2-Fluoronicotinic acid (100 mg, 0.71 mmol) was dissolved in CH2Cl2 (2 mL) with a drop of DMF (catalytic) and cooled to 0° C. then (COCl)2 (0.18 mL, 2.12 mmol) was added dropwise to the stirring solution. The slurry was allowed to warm to room temperature for 2 hours then concentrated to dryness using hexanes to remove the excess (COCl)2. The resulting acid chloride was dissolved in THF (7 mL) and DIPEA (0.26 mL, 1.49 mmol) was added. The solution was cooled to −78° C. and 2-amino-5-nitrothiazole (108 mg, 0.78 mmol) was then added in one portion and the solution was held at −78° C. for 10 mins then warmed to room temperature and stirred for 2 days until judged complete by TLC analysis. The resulting suspension was quenched with 2M HCl in Et2O (0.78 mL, 1.56 mmol) and concentrated to dryness then purified by flash column chromatography (1% MeOH/CH2Cl2) to obtain the title compound VPC16a1052 (118 mg, 62%) as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 13.77 (bs, 1H), 8.70 (s, 1H), 8.54-8.44 (m, 1H), 8.41-8.35 (m, 1H), 7.63-7.50 (m, 1H); 13C NMR (75 MHz, DMSO-d6) δ 163.0 (d, JCF=5.9 Hz), 161.5, 159.4 (d, JCF=242 Hz), 151.3 (d, JCF=15.2 Hz), 142.4, 142.3, 122.3 (d, JCF=4.1 Hz), 115.9 (d, JCF=28.5 Hz); HRMS (ESI) calcd for [C9H5FN4O3S+H]+ 269.0139. found 269.0143.

reactant | 2-Fluoronicotinic acid | 0.71 mmol, 100 mg | FC1=C(C(=O)O)C=CC=N1 | C6H4FNO2
reactant | (COCl)2 | 2.12 mmol, 0.18 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | DIPEA | 1.49 mmol, 0.26 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-5-nitrothiazole | 0.78 mmol, 108 mg | NC=1SC(=CN1)[N+](=O)[O-] | C3H3N3O2S
reactant | HCl | 2M | Cl | ClH
reactant | Et2O | 1.56 mmol, 0.78 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Fluoro-N-(5-nitrothiazol-2-yl)nicotinamide | FC1=C(C(=O)NC=2SC(=CN2)[N+](=O)[O-])C=CC=N1 | C9H5FN4O3S
